US06716851B2
4-(5-Hydroxy-2-methylanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.154 mmol) and 5-hydroxy-2-methylaniline (34 mg, 0.231 mmol) similar to Example 190 and was isolated as a solid (3 mg). 1H NMR (CDCl3): 9.74 (d, J=1.2 Hz, 1H), 8.76-8.71 (m, 2H), 7.30 (brs, 1H), 7.18 (d, J=8.4 Hz, 1H), 6.87 (brd, 1H), 6.78 (dd, J=8.4, 2.4 Hz, 1H), 6.73 (s, 1H), 2.21 (s, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.154 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 5-hydroxy-2-methylaniline | 0.231 mmol, 34 mg | OC=1C=CC(=C(N)C1)C | C7H9NO
product | 4-(5-Hydroxy-2-methylanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | OC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C1)C | C16H12F3N5O
